US07759337B2
Synthesis of 6-{5-[(Cyclopropylamino)carbonyl]-2-methylphenyl}phthalazine-1-carboxamide
Methyl 3-(1-cyanophthalazin-6-yl)-4-methylbenzoate (120 mg, 396 μmol) was dissolved in THF/water (4:1) (3.96 mL) and LiOH (19 mg, 791 μmol) was added. The reaction mixture was stirred at 50° C. for 5.5 h, concentrated, and lyophilyzed under house vacuum. The reaction mixture was dissolved in DMF (791 μl) and HATU (301 mg, 791 μmol) and cyclopropylamine (277 μl, 3956 μmol) were added and the mixture was stirred at RT for 16 h. The mixture was diluted with 100 mL ethyl acetate, and partitioned with sodium bicarbonate (saturated, aqueous). The organic layers were washed 3×20 mL with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, concentrated in vacuo, and purified by HPLC to give the title compound. MS (ES+): 347 (M+H)+.

reactant | Methyl 3-(1-cyanophthalazin-6-yl)-4-methylbenzoate | 396 μmol, 120 mg | C(#N)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OC)C=CC1C | C18H13N3O2
reactant | LiOH | 791 μmol, 19 mg | [Li+].[OH-]
reactant | HATU | 791 μmol, 301 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropylamine | 3956 μmol, 277 μl | C1(CC1)N | C3H7N
solvent | THF water | 3.96 mL | C1CCOC1.O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-{5-[(Cyclopropylamino)carbonyl]-2-methylphenyl}phthalazine-1-carboxamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=C2C=NN=C(C2=CC1)C(=O)N)C | C20H18N4O2
